US07629363B2
Step 1: Preparation of methyl 3-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)-4-methylbenzoate
4-Hydroxy-6-methyl-2-pyrone (22.9 g, 181.6 mmol) and methyl-3-amino-2-methylbenzoate (25 g, 151.3 mmol) were suspended in 50 ml of 1,2-dichlorobenzene in a 250 ml, 3-necked round bottom flask equipped with a J-Kem temperature controller probe, a Dean-Stark trap, and a heating mantle. The reaction was heated to 165° C. for 15 minutes, during which, water and some 1,2-dichlorobenzene was collected in the Dean Stark trap. The reaction was allowed to cool to about 110° C. At this point, 200 ml of toluene was added. The flask was plunged into a 0° C. ice bath while stirring. “Oiling out” occurred. Perhaps too much toluene was added so some of the solvent was removed in vacuo. The oil went back into solution and a light brown precipitate remained. The toluene mixture was allowed to stir for 72 hours at room temperature. A precipitate was collected on a filter pad. The precipitate was filtered and washed 3 Limes with toluene, 3 times with 50° C. water to remove excess pyrone, and dried in vacuo to give a tan solid (16.5 g, 40% yield). 1H NMR (300 MHz, CD3OD) δ 8.06 (dd, J=8.06, 1.61 Hz, 1H), 7.80 (d, J=1.61 Hz, 1H), 7.56 (d, J=3.06, Hz, 1H), 6.15 (dd, J=2.42, 0.81 Hz, 1H), 5.86 (d, J=2.42 1H), 3.94 (s, 3H), 2.15 (s, 3H), 1.91 (s, 3H); ES-MS m/z 274 (M+H). ES-HRMS m/z 274.1066 (M+H calcd for C15H16NO4 requires 274.1074).

reactant | 4-Hydroxy-6-methyl-2-pyrone | 181.6 mmol, 22.9 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | methyl-3-amino-2-methylbenzoate | 151.3 mmol, 25 g | COC(C1=C(C(=CC=C1)N)C)=O | C9H11NO2
reactant | water | O | H2O
reactant | 1,2-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | methyl 3-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)-4-methylbenzoate | 16.5 g, 40% yield | OC1=CC(N(C(=C1)C)C=1C=C(C(=O)OC)C=CC1C)=O | C15H15NO4
